US07205411B2
(6-methyl-2-trimethylsilanylethynyl-pyridin-3-yl)amine (330 mg, 1.61 mmol) was dissolved in MeOH (3 ml) and cooled to 0° C., to the resulting solution was added 1 M solution of NaOH (1.6 ml). The ice bath was removed and the reaction mixture was stirred at room temperature for 4 h. 90 μl of acetic acid was added. The reaction mixture was partially concentrated and the residue was extracted with ethyl acetate. The organic layers were washed with water, brine, dried over Na2SO4, filtered and concentrated to yield 160 mg (1.21 mmole, 75%) of (2-ethynyl-6-methyl-pyridin-3-yl)amine as a brown solid which was used in the next step without further purification.

reactant | (6-methyl-2-trimethylsilanylethynyl-pyridin-3-yl)amine | 1.61 mmol, 330 mg | CC1=CC=C(C(=N1)C#C[Si](C)(C)C)N | C11H16N2Si
reactant | NaOH | 1.6 ml | [OH-].[Na+]
solvent | MeOH | 3 ml | CO | CH4O
product | (2-ethynyl-6-methyl-pyridin-3-yl)amine | 1.21 mmole, 160 mg, 75% | C(#C)C1=NC(=CC=C1N)C | C8H8N2
